US08937071B2
To a mixture of 4-ethoxy-5-iodopyridin-2-ol (800 mg, 3.02 mmol) in THF (10 mL) was added (bromomethyl)benzene (619 mg, 3.62 mmol) and silver carbonate (1665 mg, 6.04 mmol). The mixture was stirred at 70° C. for 16 h. The reaction residue was filtered and the filtrate was concentrated. The mixture was diluted with H2O and extracted with DCM. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The resulting 2-(benzyloxy)-4-ethoxy-5-iodopyridine (800 mg, 1.915 mmol, 63.4% yield) was used to next step without further purification: 1H NMR (400 MHz, CDCl3) δ 8.28 (s, 1H), 7.45-7.43 (m, 2H), 7.38-7.36 (m, 3H), 6.22 (s, 1H), 5.33 (s, 2H), 4.12-4.07 (m, 2H), 1.48 (t, J=6.8 Hz, 3H); ES-LCMS m/z 355.9 (M+H).

reactant | 4-ethoxy-5-iodopyridin-2-ol | 3.02 mmol, 800 mg | C(C)OC1=CC(=NC=C1I)O | C7H8INO2
reactant | (bromomethyl)benzene | 3.62 mmol, 619 mg | BrCC1=CC=CC=C1 | C7H7Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | silver carbonate | 6.04 mmol, 1665 mg | C([O-])([O-])=O.[Ag+2]
product | 2-(benzyloxy)-4-ethoxy-5-iodopyridine | 1.915 mmol, 800 mg, 63.4% yield | C(C1=CC=CC=C1)OC1=NC=C(C(=C1)OCC)I | C14H14INO2
